US06787536B2
4-[5-(4-Fluorophenyl)pyridin-2-yloxy]piperidine-1-carboxylic acid tert-butyl ester
Prepared according to the method for the preparation of 4-[5-(4-fluorophenyl)-pyrimidin-2-yl]piperazine-1-carboxylic acid tert-butyl ester, from 4-(5-bromo-pyridin-2-yloxy)piperidine-1-carboxylic acid tert-butyl ester (0.39 g) and 4-fluorophenylboronic acid (0.16 g), to yield the title compound as a white solid (0.13 g, 34%)

reactant | 4-[5-(4-fluorophenyl)-pyrimidin-2-yl]piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C=N1)C1=CC=C(C=C1)F | C19H23FN4O2
reactant | 4-(5-bromo-pyridin-2-yloxy)piperidine-1-carboxylic acid tert-butyl ester | 0.39 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=NC=C(C=C1)Br | C15H21BrN2O3
reactant | 4-fluorophenylboronic acid | 0.16 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
product | 4-[5-(4-Fluorophenyl)pyridin-2-yloxy]piperidine-1-carboxylic acid tert-butyl ester | 0.13 g, 34% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=NC=C(C=C1)C1=CC=C(C=C1)F | C21H25FN2O3
